US07714168B2
A solution of 7.5 g of 4-benzyloxy-3-fluoro-5-methoxybenzaldehyde in 200 ml of acetone was added dropwise at 15 to 20° C. to a mixture of 200 ml of water and 6.8 g of potassium permanganate. The mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated to about a half amount under reduced pressure. Aqueous sodium hydrogen sulfite solution and dilute hydrochloric acid were added to the concentrate and extracted twice with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to obtain 4-benzyloxy-3-fluoro-5-methoxybenzoic acid.

reactant | 4-benzyloxy-3-fluoro-5-methoxybenzaldehyde | 7.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1OC)F | C15H13FO3
reactant | water | 200 ml | O | H2O
reactant | potassium permanganate | 6.8 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 4-benzyloxy-3-fluoro-5-methoxybenzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1OC)F | C15H13FO4
